US07622469B2
3,6-Dihydro-6,6-dimethyl-4-heptylamino-2-(1′,1′,3′,3′-tetramethylbutylamino)-1,3,5-triazine acetate
100 ml of methanol, 80 ml of acetone and 2.9 ml of concentrated hydrochloric acid were added to 9.0 g (25.9 mmol) of N1-heptyl-N5- (1,1,3,3-tetramethylbutyl)-biguanide hydrochloride. The mixture was refluxed for 21 hours, and the solvent was distilled off under reduced pressure. To the residue were added 100 ml of ethanol, 60 ml of water and 10.6 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed successively with 10% aqueous sodium acetate and water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from methyl ethyl ketone two times to obtain 8.3 g of colorless crystals having a melting point of 98 to 101° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 2.9 ml | Cl | ClH
reactant | N1-heptyl-N5- (1,1,3,3-tetramethylbutyl)-biguanide hydrochloride | 25.9 mmol, 9.0 g | Cl.C(CCCCCC)NC(=N)NC(=N)NC(CC(C)(C)C)(C)C
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-heptylamino-2-(1′,1′,3′,3′-tetramethylbutylamino)-1,3,5-triazine acetate | 8.3 g | C(C)(=O)O.CC1(N=C(NC(=N1)NC(CC(C)(C)C)(C)C)NCCCCCCC)C | InChI=1S/C20H41N5.C2H4O2/c1-9-10-11-12-13-14-21-16-22-17(25-20(7,8)24-16)23-19(5,6)15-18(2,3)4;1-2(3)4/h9-15H2,1-8H3,(H3,21,22,23,24,25);1H3,(H,3,4)
